US08034812B2
Production of N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]tetrahydro-2H-pyran-4-carboxamide
A mixture of N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)tetrahydro-2H-pyran-4-carboxamide, 3-aminophenol (436 mg, 4.0 mmol), potassium carbonate (552 mg, 4.0 mmol) and N,N-dimethylformamide (5.0 mL) was stirred with heating at 180° C. for 15 min using a microwave synthesizer. After cooling, the reaction mixture was filtrated, and the filtrate was purified by preparative HPLC to give the title compound (364 mg, 49%) as a dark brown powder.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)tetrahydro-2H-pyran-4-carboxamide | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CCOCC2 | C12H13IN4O2
reactant | 3-aminophenol | 4.0 mmol, 436 mg | NC=1C=C(C=CC1)O | C6H7NO
reactant | potassium carbonate | 4.0 mmol, 552 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 5.0 mL | CN(C=O)C | C3H7NO
product | N-[6-(3-aminophenoxy)imidazo[1,2-b]pyridazin-2-yl]tetrahydro-2H-pyran-4-carboxamide | 364 mg, 49% | NC=1C=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CCOCC3)C=CC1 | C18H19N5O3
